US04645527
To a stirred solution of 60.0 g of 2,3-dichlorobenzenesulfonyl chloride in 500 mL of tetrahydrofuran at 0° C. was added 30 mL of concentrated ammonium hydroxide (30%) dropwise at a rate that maintained the temperature below 15° C. After an additional stirring period of 0.5 hr, the tetrahydrofuran was evaporated under reduced pressure. The resultant solid residue was triturated with 500 mL of water, filtered, and the collected solid washed twice with 100-mL portions of water and dried to yield 52 g of 2,3-dichlorobenzenesulfonamide as a tan solid, m.p. 210°-226° C.; IR (nujol): 3360, 3250, 1370, 1175, 1165 cm-1.

reactant | 2,3-dichlorobenzenesulfonyl chloride | 60.0 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | ammonium hydroxide | 30 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 2,3-dichlorobenzenesulfonamide | 52 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)N | C6H5Cl2NO2S
